US05486466
To a suspension of 3.30 g of potassium 3-trityloxypropionate in 75 ml of toluene, cooled to 0° C., was added 0.5 ml of pyridine, and subsequently 15 ml of oxalyl chloride were added within 10 minutes. The mixture was stirred for 30 minutes at room temperature and then evaporated in vacuo. The oily residue was taken up in 30 ml of toluene, and the solvent was evaporated in vacuo. The residue was taken up in 50 ml of methylene chloride and 50 ml of hexane, and the solution was stirred at 0° C. Unsoluble material was filtered off, and the filtrate was evaporated in vacuo to yield 2.81 g of 3-trityloxypropionyl chloride as a white solid.

reactant | potassium 3-trityloxypropionate | 3.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC(=O)[O-].[K+]
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 3-trityloxypropionyl chloride | 2.81 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC(=O)Cl | C22H19ClO2
